### PR TITLE
Add and test AdderSubstractor IP Core

### PR DESCRIPTION
**Pull request by atondwal**
towards replicating Xilinx Adder/Subtractor
cf #715

### CODE REVIEW

**Comment by atondwal** [comment]
(git history's a bit of a mess, but I figure we're going to squash it anyways...)

**Comment by satnam6502** [comment]
Thanks! Let me take my time to look over this carefully... hopefully tonight.

File: tests/AdderSubstractorTests.v [hunk 1]
```diff
@@ -0,0 +1,54 @@
...
+Proof. trivial. Qed.
+
+Example ex2 :
+  c_addsub_0 (bv_511, bv_511) = N2Bv_sized 9 1022.
+Proof. trivial. Qed.
+
+Definition adderInterface
+  := combinationalInterface "c_addsub_0"
+     [mkPort "x" (Vec Bit 8); mkPort "y" (Vec Bit 8)]
+     [mkPort "z" (Vec Bit 9)].
```
Comment (satnam6502) [inline tests/AdderSubstractorTests.v:37]: Please can you name the port *exactly* as they are named in the generated Verilog/VHDL.
This is important for using these components as drop-in replacements.

**Review by satnam6502 — APPROVED** [review]
Great! Thanks.
I'll make a follow-up PR which runs the Xilinx tools to implement this so we can measure the resource utilization. I will also elaborate the Xilinx IP core to see if we can reuse any of its testbenches.
